US07544690B2
To a solution of trans-[4-(4-dimethlyamino-quinazolin-2-ylamino)-cyclohexyl]-carbamic acid tert-butyl ester (0.76 g, 0.20 mmol) in CH2Cl2 (20 mL) was added TFA (304 μL, 0.39 mmol). The solution was stirred at ambient temperature for 4 hr. The resulting mixture was concentrated and the residue was dissolved in CH2Cl2. The organic layer was washed with a dilute aqueous NaOH and aqueous NaHCO3 solution. The aqueous layer was extracted with CH2Cl2 (twice) and the organic layers combined, dried over MgSO4, and concentrated. To a solution of the residue (0.1 g) and 4-fluoro-biphenyl-4-carboxylic acid (76 mg, 0.35 mmol) in CH2Cl2 were added HOAt (62 mg, 0.46 mmol), WSC—HCl (87 mg, 0.46 mmol), and diisopropylethylamine (31 uL, 0.18 mmol). The mixture was stirred for 1 hr at ambient temperature and the reaction was quenched with water. The aqueous layer was extracted with CH2Cl2 (twice). The organic layers were combined, dried over MgSO4, concentrated and the residue purified by column chromatography (silica gel, 2% to 4% 2 M NH3/MeOH in CH2Cl2) to give trans-4′-fluoro-biphenyl-4-carboxylic acid [4-(4-dimethlyamino-quinazolin-2-ylamino)-cyclohexyl]-amide (35 mg, 0.072, 21%) as a white solid.

reactant | trans-[4-(4-dimethlyamino-quinazolin-2-ylamino)-cyclohexyl]-carbamic acid tert-butyl ester | 0.20 mmol, 0.76 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N(C)C)=O | C21H31N5O2
reactant | TFA | 0.39 mmol, 304 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-fluoro-biphenyl-4-carboxylic acid | 0.35 mmol, 76 mg | FC1(CC=C(C=C1)C1=CC=CC=C1)C(=O)O | C13H11FO2
reactant | HOAt | 0.46 mmol, 62 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | WSC HCl | 0.46 mmol, 87 mg | CCN=C=NCCCN(C)C.Cl
reactant | diisopropylethylamine | 0.18 mmol, 31 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | trans-4′-fluoro-biphenyl-4-carboxylic acid [4-(4-dimethlyamino-quinazolin-2-ylamino)-cyclohexyl]-amide | 35 mg, 21% | CN(C1=NC(=NC2=CC=CC=C12)N[C@@H]1CC[C@H](CC1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F)C | C29H30FN5O
